US08541426B2
Method G: Preparation of free base 3-{(3R,4R)-4-Methyl-3-[methyl-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amino]-piperidin-1-yl}-3-oxo-propionitrile
The 3-{(3R,4R)-4-Methyl-3-[methyl-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amino]-piperidin-1-yl}-3-oxo-propionitrile citrate salt, as prepared in Method F above, was treated with 1M sodium hydroxide in dichloromethane to afford the corresponding free base. The free base was then crystallized from methanol and water to furnish the crystal form of the free base.

reactant | 3-{(3R,4R)-4-Methyl-3-[methyl-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amino]-piperidin-1-yl}-3-oxo-propionitrile citrate salt | C(CC(O)(C(=O)O)CC(=O)O)(=O)O.C[C@H]1[C@H](CN(CC1)C(CC#N)=O)N(C=1C2=C(N=CN1)NC=C2)C
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-{(3R,4R)-4-Methyl-3-[methyl-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amino]-piperidin-1-yl}-3-oxo-propionitrile | C[C@H]1[C@H](CN(CC1)C(CC#N)=O)N(C=1C2=C(N=CN1)NC=C2)C | C16H20N6O
